US08349851B2
A mixture of ethyl 8-fluoro-4-hydroxyquinazoline-2-carboxylate (530 mg, 2.2 mmol) and POCl3 (3 mL) was heated under reflux for 5 h. The mixture was concentrated under reduced pressure, and then toluene was twice added and concentrated under reduced pressure. Thre residue was purified by silica gel chromatography eluting with 0-25% EtOAc/hexanes to afford ethyl 4-chloro-8-fluoroquinazoline-2-carboxylate (365 mg, 65%). 1H NMR (300 MHz, DMSO-d6) δ 1.39 (t, J=7.1 Hz, 3 H), 4.46 (q, J=7.1 Hz, 2 H), 7.97-8.06 (m, 1 H), 8.07-8.16 (m, 1 H), 8.18-8.24 (m, 1 H).

reactant | ethyl 8-fluoro-4-hydroxyquinazoline-2-carboxylate | 2.2 mmol, 530 mg | FC=1C=CC=C2C(=NC(=NC12)C(=O)OCC)O | C11H9FN2O3
reactant | POCl3 | 3 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-8-fluoroquinazoline-2-carboxylate | 365 mg, 65% | ClC1=NC(=NC2=C(C=CC=C12)F)C(=O)OCC | C11H8ClFN2O2
